US05393875
A solution of 1.05 g (2.5 mmol) of crude (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride in 29 ml (9.3 mmol) of 0.32M ammonia in tetrahydrofuran was stirred at room temperature for 5 hours. Subsequently, the reaction solution was diluted with 40 ml of ethyl acetate and extracted with 20 ml of 1N hydrochloric acid. The ethyl acetate extract was then washed with 20 ml of saturated sodium hydrogen carbonate solution and 20 ml of saturated sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. There was obtained 0.92 g of benzyl rac-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamate as a colourless solid, MS: 312 (M-benzyl)+.

reactant | (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride | 2.5 mmol, 1.05 g | C(C1=CC=CC=C1)OC(=O)C(CS(=O)(=O)C(C(=O)Cl)(C)C)CC1=CC=CC=C1 | C21H23ClO5S
reactant | ammonia | 9.3 mmol, 0.32M, 29 ml | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | benzyl rac-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamate | 0.92 g | C(N)(=O)C(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H25NO5S
